US06534488B1
Synthesis of Hydroxyethylidene Bisphosphonic Acid (compound 2)
Tris(trimethylsilyl) phosphite (2 molar equiv.) in an appropriate dry solvent was added dropwise to a stirred solution of acetyl chloride (1 molar equiv.) in an appropriate dry solvent at room temperature and the mixture stirred for 10 minutes. Excess methanol was then added and the mixture stirred for 5 minutes to decompose the silyl esters. The volatile components in the reaction mixture were then removed under reduced pressure to leave the title compound in good purity.

reactant | Tris(trimethylsilyl) phosphite | 2 molar | P(O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C | C9H27O3PSi3
reactant | acetyl chloride | 1 molar | C(C)(=O)Cl | C2H3ClO
solvent | methanol | CO | CH4O
product | Hydroxyethylidene Bisphosphonic Acid | OCC(P(O)(O)=O)P(O)(O)=O | C2H8O7P2
